US04214094
(a) 0.312 g of 50% sodium hydride is suspended in 10 ml of anhydrous dimethylformamide, and 1.16 g of 4-[N-(4-chlorophenyl)formimidoyl]phenol is added to the suspension at 20° to 25° C. with stirring. Subsequently over a period of 15 minutes, 1.27 g of ethyl 2-bromo-2-methylpropionate is added dropwise to the resulting mixture at the same temperature with stirring. The mixture is stirred at the same temperature for 30 minutes, then at 50° to 55° C. for 2 hours and thereafter at 80° C. for 3 hours. The reaction mixture is poured into cold water, extracted with ether, and the extract is washed with 5% aqueous solution of sodium hydroxide and then with water. After drying, the solvent is distilled off to give 1.5 g of ethyl 2-[4-{N-(4-chlorophenyl)formimidoyl}phenoxy]-2-methylpropionate.

reactant | sodium hydride | 0.312 g | [H-].[Na+]
reactant | 4-[N-(4-chlorophenyl)formimidoyl]phenol | 1.16 g | ClC1=CC=C(C=C1)N=CC1=CC=C(C=C1)O | C13H10ClNO
reactant | ethyl 2-bromo-2-methylpropionate | 1.27 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[4-{N-(4-chlorophenyl)formimidoyl}phenoxy]-2-methylpropionate | 1.5 g | ClC1=CC=C(C=C1)N=CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C19H20ClNO3
